US20010020310A1
80 cc of acetic acid, 8.2 g of 4-nitro-2H-pyrazol-3-ylamine hydrochloride (prepared according to H. Dorn and H. Dilcher, Liebigs Ann. Chem., 707, 141, 1967) and 7.2 g of 3-methylpentane-2,4-dione were introduced into a 100 ml three-necked round-bottomed flask fitted with a magnetic stirrer, a condenser and a thermometer. The medium was refluxed for 3 hours. The medium was filtered at room temperature and the solid was washed with diisopropyl ether. This yielded 9.4 g of crude product. 3.5 g of this product was recrystallized in 23 cc of absolute ethanol. Drying under vacuum and over phosphoric anhydride yielded 3.1 g of 5,6,7-trimethyl-3-nitropyrazolo[1,5-a]pyrimidine (yield=80%).

reactant | 4-nitro-2H-pyrazol-3-ylamine hydrochloride | 8.2 g | Cl.[N+](=O)([O-])C1=C(NN=C1)N
reactant | 3-methylpentane-2,4-dione | 7.2 g | CC(C(C)=O)C(C)=O | C6H10O2
solvent | acetic acid | 80 cc | C(C)(=O)O | C2H4O2
product | 5,6,7-trimethyl-3-nitropyrazolo[1,5-a]pyrimidine | 3.1 g, yield=80% | CC1=NC=2N(C(=C1C)C)N=CC2[N+](=O)[O-] | C9H10N4O2
